### ISSUE TITLE
proof: no case split on a sum-type argument whose variant carries a payload

### ISSUE THREAD

**Issue by jasisz** [jasisz/aver#1416]
A law quantified over a sum type needs one `cases` on it. The recognizers only enumerate finite domains (`Bool`, fieldless enums), so a type like `Ev` with `Add(Int)` gets no case split. The portfolio tries `grind [cone]` and `simp [cone]` on the whole goal, both fail, and the law falls to `sorry`.

```aver
module SumCases
    intent =
        "A law over a sum type whose variant carries a payload needs one case split on it."

record Tally
    a: Int
    b: Int

type Ev
    Add(Int)
    Move

fn step(t: Tally, e: Ev) -> Tally
    ? "Add raises a; Move shifts one unit from a to b."
    match e
        Ev.Add(v) -> Tally.update(t, a = t.a + v)
        Ev.Move -> Tally.update(t, a = t.a - 1, b = t.b + 1)

verify step
    step(Tally(a = 1, b = 0), Ev.Move).b => 1

fn gained(e: Ev) -> Int
    ? "What an event adds to the total."
    match e
        Ev.Add(v) -> v
        Ev.Move -> 0

verify gained
    gained(Ev.Add(3)) => 3

fn total(t: Tally) -> Int
    ? "a + b."
    t.a + t.b

verify total
    total(Tally(a = 1, b = 2)) => 3

verify step law keepsTotal
    given t: Tally = [Tally(a = 0, b = 0), Tally(a = 5, b = -2)]
    given e: Ev = [Ev.Add(3), Ev.Add(-1), Ev.Move]
    total(step(t, e)) => total(t) + gained(e)
```

```text
{"backend":"lean",…,"sorries":1,"sorry_laws":["step.keepsTotal"],"universal":false,"universal_laws":0}
```

The emitted proof is only:

```lean
first | (grind [SumCases.gained, SumCases.step, SumCases.total]; done) | (first | (simp [step, gained, total]; done) | sorry)
```

A hand-written proof on the same export is one line:

```lean
theorem keepsTotal_hand : ∀ (t : Tally) (e : Ev), total (step t e) = total t + gained e := by
  intro t e
  cases e <;> simp only [step, gained, total] <;> omega
-- 'keepsTotal_hand' depends on axioms: [propext, Quot.sound]
```

A strategy that runs `cases` on each `given` of a user sum type (payload or not) before the usual `simp`/`omega` closers would cover it. Workaround today: a `because` reason function that matches on the event and states the claim per arm makes the law universal.

`main` at `6df7aa70` (aver 0.30.0-dev), Lean 4.32.0, `aver proof <file> --verify-mode auto -o out --check-json`.
